US07129213B2
87.6 g Boc-L-Phe-OH was dissolved in a mixture of 50 ml dimethylformamide (DMF) and 300 ml 1,2-dimethoxyethane (DME) and cooled to −15° C. Subsequently, 37 ml N-methylmorpholine (NMM) (1 equivalent) was added at once and subsequently 45 ml isobutylchloroformate (IBCF) (1 equivalent) was added dropwise over 10 min. The mixture was then stirred for further 5 min at −15° C. 40 g TFA.H-L-Pro-NH2 (1.06 equivalents) was subsequently added in portions over 5 min, and then 315 ml N,N-diisopropyl-N-ethylamine (DIEA) (1 equivalent) was added at once. The reaction mixture was reacted over night at room temperature and atmospheric pressure. Subsequently, the reaction mixture was concentrated in a rotatory evaporator equipped with a water aspirator and a dry ice/acetone trap, and the residue was taken in 1 l of ethylacetate followed by twelve washes with 80 ml 1N aqueous KHSO4 solution, one wash with 80 ml brine, ten washes with 80 ml saturated aqueous NaHCO3 solution, one wash with 80 ml brine in a 2 l separatory funnel. The subsequent drying was carried out over 50 g Na2SO4. After filtration through a sinter glass funnel (coarse porosity) was concentrated as described above. The residue of evaporation (dry foam) was then triturated in 1 l hexane, and a solid was collected on a sinter glass funnel (120 mm i.d.×120 mm, medium porosity). This was followed by drying in a desiccator over 12 hours at room temperature and a pressure of 0.1 to 1 mm Hg (vacuum oil pump, with dry ice/acetone trap). Thus, 92.8 g Boc-L-Phe-L-Pro-NH2 was obtained (yield: 77.8%).

reactant | Boc-L-Phe-OH | 87.6 g | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C14H19NO4
reactant | N-methylmorpholine | 37 ml, 1 equivalent | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 45 ml, 1 equivalent | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | TFA | 40 g | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | H-L-Pro-NH2 | 1.06 equivalents | N1[C@H](C(=O)N)CCC1 | C5H10N2O
reactant | N,N-diisopropyl-N-ethylamine | 315 ml, 1 equivalent | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | 1,2-dimethoxyethane | 300 ml | COCCOC | C4H10O2
product | Boc-L-Phe-L-Pro-NH2 | 92.8 g, yield: 77.8% | N([C@@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)N)CCC1)C(=O)OC(C)(C)C | C19H27N3O4
